US05834463
4-(Phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
To a suspension of 2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (2.02 g, 10 mmol) in 1,2-dichloroethane (15 mL) was added phthalimidoacetyl chloride (2.24 g, 10 mmol),and the mixture was stirred for 15 minutes at room temperature. To the reaction mixture was added a saturated aqueous solution of sodium hydrogencarbonate (10 mL) to give precipitate, which was filtered off. The aqueous layer of the filtrate was seperated. The organic layer was washed with water, dried over magnesium sulfate and subjected to filtration. The filtrate was concentrated under reduced pressure. The concentrate was combined with the precipitate filtered previously, which was washed with methanol, followed by recrystallization from chloroform-methanol to give 2.42 g (yield 62%) of a cis-trans mixture (3:2). m.p. 293°-294° C.

reactant | 2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 10 mmol, 2.02 g | C1CCC2NC3=C(NC(C21)=O)C=CC=C3 | C12H14N2O
reactant | phthalimidoacetyl chloride | 10 mmol, 2.24 g | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
reactant | sodium hydrogencarbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | 4-(Phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 2.42 g, yield 62% | C1(C=2C(C(N1CC(=O)N1C3=C(NC(C4C1CCC4)=O)C=CC=C3)=O)=CC=CC2)=O | C22H19N3O4
